US07268129B2
Step A: 5-Chloro-2-(2,2-difluoroacetamido)benzenesulphonamide
To 1 g of 2-amino-5-chlorobenzenesulphonamide (obtained in accordance with J. Chem. Soc. Perkin I 1979, 1043-1047) dissolved in 4 ml of dioxane there are added, in the cold state (+5° C.), 0.6 ml of pyridine and 0.6 ml of difluoroacetic acid chloride. The flask is hermetically closed immediately and subjected to vigorous stirring at ambient temperature for 10 minutes. The solvents are then removed under reduced pressure. The solid residue is taken up in water (12 ml), and the insoluble material is collected by filtration, washed with water and dried to yield the expected compound.

reactant | 2-amino-5-chlorobenzenesulphonamide | 1 g | NC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
reactant | difluoroacetic acid chloride | 0.6 ml | FC(C(=O)Cl)F | C2HClF2O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-(2,2-difluoroacetamido)benzenesulphonamide | ClC=1C=CC(=C(C1)S(=O)(=O)N)NC(C(F)F)=O | C8H7ClF2N2O3S
